US08044043B2
(E)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine.
The mixture of 2,3-difluorophenylboronic acid (0.936 g, 5.93 mmol), sodium carbonate (4.57 mL, 9.14 mmol), (E)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridin-6-yl trifluoromethanesulfonate (2.3 g, 4.94 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.285 g, 0.247 mmol) in toluene (30 mL) and MeOH (6 mL) was heat to 80° C. under N2 for 3 hours. LCMS showed no more starting material. The reaction was diluted with ethyl acetate and washed with water one time. The ethyl acetate layer was separated, dried (Na2SO4), filtered and concentrated. Flash column by ethyl acetate in hexane from 0 to 25% afforded the desired product (0.8797 g, 54%). MS(ESI)[M+H+]=430.43.

reactant | 2,3-difluorophenylboronic acid | 5.93 mmol, 0.936 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 9.14 mmol, 4.57 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | (E)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridin-6-yl trifluoromethanesulfonate | 4.94 mmol, 2.3 g | FC(S(=O)(=O)O/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C20H30F3NO4SSi
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 6 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.247 mmol, 0.285 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine | 0.8797 g, 54% | FC1=C(C=CC=C1F)/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C25H33F2NOSi
